US07105563B2
A solution of 5-methoxy-3-[1-(pyrrol-2-yl)ethylidene]indolin-2-one; (0.12 g, 0.5 mmol) in dichloromethane (5 mL) was treated with BBr3 solution (1.5 mL of a 1M solution in dichloromethane, 1.5 mmol, 3.0 eq.). After stirring overnight at ambient temperature, the reaction was quenched by water (10 mL). The organic layer was separated. The aqueous layer was neutralized with saturated NaHCO3 solution and extracted with ethyl acetate (2×20 mL). The combined organic layers were concentrated. Reverse phase HPLC using acetonitrile/water afforded 5-hydroxy-3-[1-(pyrrol-2-yl)ethylidene]indolin-2-one; (0.04 g); 1H NMR (400 MHz, DMSO-d6) δ 2.74 (s, 3H), 6.38 (m, 1H), 6.62 (m, 1H), 6.70 (m, 1H), 7.08 (m, 1H), 7.20 (m, 1H), 7.32 (m, 1H), 8.96 (s, 1H), 10.78 (s, 1H) ppm.

reactant | 5-methoxy-3-[1-(pyrrol-2-yl)ethylidene]indolin-2-one | COC=1C=C2C(C(NC2=CC1)=O)=C(C)C=1NC=CC1 | C15H14N2O2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-hydroxy-3-[1-(pyrrol-2-yl)ethylidene]indolin-2-one | OC=1C=C2C(C(NC2=CC1)=O)=C(C)C=1NC=CC1 | C14H12N2O2
